US05574153
(E)-2-methoxyiminomethyl-phenylacetic acid
1.8 g (10 mmoles) of 2-hydroxyiminomethyl-phenylacetic acid are reacted with 1.50 ml of iodomethane, 5 g of potassium carbonate and 10 mg of triethylbenzylammonium (TEBA) chloride in 20 ml of anhydrous acetonitrile. The system is left for 6 hours at +80° C. and overnight at ambient temperature.

reactant | 2-hydroxyiminomethyl-phenylacetic acid | 10 mmoles, 1.8 g | ON=CC1=C(C=CC=C1)CC(=O)O | C9H9NO3
reactant | iodomethane | 1.50 ml | IC | CH3I
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylbenzylammonium | 10 mg | C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (E)-2-methoxyiminomethyl-phenylacetic acid | CO\N=C\C1=C(C=CC=C1)CC(=O)O | C10H11NO3
